US04053474
b. 4-Hydrazino-1-methylpyrazolo[3,4-d]pyrimidine
50 g. of 4-chloropyrazolo[3,4-d]pyrimidine are dissolved in 700 ml. of absoulute ethanol and 25 g. of hydrazine hydrate in 100 ml. of ethanol are slowly added dropwise with stirring. This is stirred for 13 hours at room temperature and the product formed is then filtered under suction, water is added and the product, 4-hydrazino-1-methylpyrazolo[3,4-d]pyrimidine, is crystallized from dimethylformamide as yellowish crystals, m.p. 231°.

reactant | 4-chloropyrazolo[3,4-d]pyrimidine | ClC1=C2C(=NC=N1)NN=C2 | C5H3ClN4
reactant | hydrazine hydrate | O.NN
reactant | ethanol | C(C)O | C2H6O
product | 4-Hydrazino-1-methylpyrazolo[3,4-d]pyrimidine | N(N)C1=C2C(=NC=N1)N(N=C2)C | C6H8N6
